US04371644
2,2-bis{4-[2-hydroxy-3-(4-benzoyloxy-2,2,6,6-tetramethylpiperidino)propoxy]cyclohexyl}propane (Compound No. 78)
A mixture of 30.0 g of 4-benzoyloxy-2,2,6,6-tetramethylpiperidine and 15.0 g of 2,2-bis[4-(2,3-epoxypropoxy)cyclohexyl]propane was reacted folowing the procedure described in Example 5, giving the desired Compound No. 78 in the form of a colourless, viscous liquid. The Compound had an Rf value of 0.70 on thin-layer chromatography on silica gel developed with a 15:5:1 by volume mixture of n-hexane, triethylamine and ethanol.

reactant | 4-benzoyloxy-2,2,6,6-tetramethylpiperidine | 30.0 g | C(C1=CC=CC=C1)(=O)OC1CC(NC(C1)(C)C)(C)C | C16H23NO2
reactant | 2,2-bis[4-(2,3-epoxypropoxy)cyclohexyl]propane | 15.0 g | O1C(COC2CCC(CC2)C(C)(C)C2CCC(CC2)OCC2CO2)C1 | C21H36O4
product | 2,2-bis{4-[2-hydroxy-3-(4-benzoyloxy-2,2,6,6-tetramethylpiperidino)propoxy]cyclohexyl}propane | OC(COC1CCC(CC1)C(C)(C)C1CCC(CC1)OCC(CN1C(CC(CC1(C)C)OC(C1=CC=CC=C1)=O)(C)C)O)CN1C(CC(CC1(C)C)OC(C1=CC=CC=C1)=O)(C)C | C53H82N2O8
